US07253286B2
N-Cyclopropyl-N′-(4-(6,7-dimethoxyquinolin-4-yloxy)-2-fluorophenyl)urea
4-(6,7-Dimethoxyquinolin-4-yloxy)-2-fluorophenylcarbamic acid phenyl ester (109 mg, 0.250 mmol) and cyclopropylamine (28.5 mg, 0.500 mmol) were stirred in dimethylsulfoxide (1 ml) at room temperature for 2 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:methanol=50:1), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (73 mg, 0.183 mmol, 73%) as colorless crystals.

reactant | 4-(6,7-Dimethoxyquinolin-4-yloxy)-2-fluorophenylcarbamic acid phenyl ester | 0.250 mmol, 109 mg | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)F)=O | C24H19FN2O5
reactant | cyclopropylamine | 0.500 mmol, 28.5 mg | C1(CC1)N | C3H7N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | N-Cyclopropyl-N′-(4-(6,7-dimethoxyquinolin-4-yloxy)-2-fluorophenyl)urea | 0.183 mmol, 73 mg, 73% | C1(CC1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)F | C21H20FN3O4
